US09029399B2
Preparation of Intermediate 2-(2-chloropyridin-4-yl)-2,4-diazabicyclo[3.1.0]hexan-3-one (I-30c)
A solution of benzyl 4-(2-chloropyridin-4-yl)-3-oxo-2,4-diazabicyclo-[3.1.0]hexane-2-carboxylate (I-30b: 20.0 mg, 0.058 mmol) in 3.0 mL of 6N HCl was heated to 100° C. for 1 hour. The resulting mixture was basified with 1N NaOH. The reaction mixture was cooled and partitioned between ethyl acetate and water. The organic layer was concentrated and washed with hexane to afford 10 mg of the product (83% yield).

reactant | benzyl 4-(2-chloropyridin-4-yl)-3-oxo-2,4-diazabicyclo-[3.1.0]hexane-2-carboxylate | 0.058 mmol, 20.0 mg | ClC1=NC=CC(=C1)N1C(N(C2CC12)C(=O)OCC1=CC=CC=C1)=O | C17H14ClN3O3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | HCl | 6N, 3.0 mL | Cl | ClH
product | 2-(2-chloropyridin-4-yl)-2,4-diazabicyclo[3.1.0]hexan-3-one | 10 mg, 83% yield | ClC1=NC=CC(=C1)N1C2CC2NC1=O | C9H8ClN3O
